US03937832
β-Piperidino-ethyl ester of 2,2-diphenyl-cyclopropane-carboxylic acid ##EQU3##
100 ml. of isopropanol and 0.21 mol of powdered sodium hydroxide are added to a mixture of 0.1 mol of 2,2-diphenyl-cyclopropane-carboxylic acid and 0.11 mol of piperidino-β-chloroethane hydrochloride. The mixture is heated under reflux for 8 hours, 300 ml. of water are added and the mixture extracted with diethyl ether. The ether phase is washed with water, dried over sodium sulphate, and the ether removed in vacuo to yield the base.

reactant | isopropanol | C(C)(C)O | C3H8O
reactant | sodium hydroxide | 0.21 mol | [OH-].[Na+]
reactant | 2,2-diphenyl-cyclopropane-carboxylic acid | 0.1 mol | C1(=CC=CC=C1)C1(C(C1)C(=O)O)C1=CC=CC=C1 | C16H14O2
reactant | piperidino-β-chloroethane hydrochloride | 0.11 mol | Cl.N1(CCCCC1)CCCl
solvent | water | O | H2O
product | β-Piperidino-ethyl ester of 2,2-diphenyl-cyclopropane-carboxylic acid | C1CCN(CC1)CCOC(=O)C2CC2(C3=CC=CC=C3)C4=CC=CC=C4 | C23H27NO2
